US07767675B2
Step 2. 2-chloro-3-quinoxalin-6-ylpropanal
To a cooled (0° C.) solution of 3-quinoxalin-6-ylpropanal (0.195 g, 0.00105 mol) in chloroform (3 mL) was added D-proline (24 mg, 0.00021 mol) followed by N-chlorosuccinimide (147 mg, 0.00110 mol). The mixture was stirred at 0° C. for 2 h, and then at RT overnight. The mixture was diluted with methylene chloride. The solution was washed with water, brine, dried over Na2SO4, filtered, and concentrated to yield the desired product (220 mg, 95%). LCMS: (M+H)=221.3.

reactant | 3-quinoxalin-6-ylpropanal | 0.00105 mol, 0.195 g | N1=CC=NC2=CC(=CC=C12)CCC=O | C11H10N2O
reactant | D-proline | 0.00021 mol, 24 mg | N1[C@@H](C(=O)O)CCC1 | C5H9NO2
reactant | N-chlorosuccinimide | 0.00110 mol, 147 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-chloro-3-quinoxalin-6-ylpropanal | 220 mg, 95% | ClC(C=O)CC=1C=C2N=CC=NC2=CC1 | C11H9ClN2O
